US08283354B2
6-Bromo-1H-benzo[d][1,3]oxazine-2,4-dione (56.0 g, 230 mmol) was suspended in 1 N aq. NH4OH (600 mL, 2.6 equivalents), and the suspension was stirred 3 d at room temperature. After filtration, the collected solid was washed with water and subsequently dissolved in tetrahydrofuran. This solution was filtered, evaporated to dryness, and dried by repeated azeotropic distillation with toluene. The solid was suspended in CH2Cl2, filtered, and washed once CH2Cl2 with yielding 35.4 g (71.2%) 2-amino-5-bromo-benzamide.

reactant | 6-Bromo-1H-benzo[d][1,3]oxazine-2,4-dione | 230 mmol, 56.0 g | BrC1=CC2=C(NC(OC2=O)=O)C=C1 | C8H4BrNO3
reactant | NH4OH | 1 N, 600 mL, 2.6 equivalents | [NH4+].[OH-]
product | 2-amino-5-bromo-benzamide | 35.4 g, 71.2% | NC1=C(C(=O)N)C=C(C=C1)Br | C7H7BrN2O
